* source VUMETERDRIVER
X_U1         N00600 N00477 N00332 N00368 OUT NE5532 
C_C1         0 N00600  0.01n  TC=0,0 
C_C2         0 N00497  47u  TC=0,0 
C_C3         OUT N00426  4.7u  TC=0,0 
R_R1         IN N00600  4750 TC=0,0 
R_R2         0 N00600  47k TC=0,0 
R_R3         N00497 N00477  10k TC=0,0 
R_R4         N00477 OUT  100k TC=0,0 
R_R5         0 N00426  500k TC=0,0 
V_V3         IN 0 DC 0Vdc AC 0.1Vac 
V_V4         0 N00368 DC 12 AC 0 
V_V5         N00332 0 DC 12 AC 0 
R_R6         0 N00600  {R6} TC=0,0 
.PARAM  r6=1000
